US08304407B2
Step A: Preparation of potassium 2,2,3,3,3-pentafluoropropanoate:
Pentafluoropropionic acid (20.5 g, 183 mmol) was slowly added to a solution of KOtBu (29.9 g, 183 mmol) in ether (400 mL) at 0° C. After 30 minutes the ice bath was removed. After stirring at room temperature for 4 hours the suspension was filtered and the cake was washed with ether (200 mL). The fine white solid was placed under vacuum for 16 hours prior to use.

reactant | Pentafluoropropionic acid | 183 mmol, 20.5 g | FC(C(C(=O)O)(F)F)(F)F | C3HF5O2
reactant | KOtBu | 183 mmol, 29.9 g | CC(C)(C)[O-].[K+]
solvent | ether | 400 mL | CCOCC | C4H10O
product | potassium 2,2,3,3,3-pentafluoropropanoate | FC(C(=O)[O-])(C(F)(F)F)F.[K+] | InChI=1S/C3HF5O2.K/c4-2(5,1(9)10)3(6,7)8;/h(H,9,10);/q;+1/p-1
